US07579488B2
Preparation of [(2-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-5-carbonyl)-methyl-amino]-acetic acid (Isomer 2)
2-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-5-carboxylic acid (152 mg, 346 mmol) HATU (145 mg, 380 mmol) DIEA (0.35 ml, 2.07 mmol) and sarcosine ethyl ester hydrochloride (63 mg, 0.415 mmol) are reacted followed by base hydrolysis with 2N NaOH in an analogous manner to example E from to yield (78 mg, 56%). MS (ES) m/e: 508.3 (M−1)

reactant | 2-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-5-carboxylic acid | 346 mmol, 0.35 ml, 152 mg | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1OC2=C(C1)C=C(C=C2)C(=O)O | C27H34O5
reactant | sarcosine ethyl ester hydrochloride | 0.415 mmol, 63 mg | Cl.C(C)OC(CNC)=O
reactant | NaOH | 2N | [OH-].[Na+]
product | [(2-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-5-carbonyl)-methyl-amino]-acetic acid | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1OC2=C(C1)C=C(C=C2)C(=O)N(C)CC(=O)O | C30H39NO6
